US06825181B1
Step 2: Synthesis of 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoic acid:
847 mg (2.43 mmol) of ethyl (1-t-butoxycarbonyl-4-piperidyloxy)benzoate was dissolved in 50 ml of ethanol. 5 ml of 1 N sodium hydroxide solution was added to the obtained solution, and they were stirred at room temperature for 3 days. The reaction solution was concentrated and then treated with ethyl acetate as the extraction solvent in an ordinary manner to obtain the title compound.

reactant | ethyl (1-t-butoxycarbonyl-4-piperidyloxy)benzoate | 2.43 mmol, 847 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OCC)C=CC=C1 | C19H27NO5
reactant | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(1-t-butoxycarbonyl-4-piperidyloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C(=O)O)C=C1 | C17H23NO5
